US06159996
1.45 g of 2-bromo-6-methanesulfonylindan-1-one are dissolved in 15 ml of acetone and treated with stirring with 1.25 g of N,N'-diphenylthiourea in 25 ml of acetone. The hydrobromide of 5-methanesulfonyl-3-phenyl-2-phenylimino-2,3,8,8a-tetrahydro-indeno[1,2-d]thiazol-3a-ol crystallizes out of the clear solution after about 2 hours. After standing overnight, it is filtered off with suction and washed with a little acetone. 1.7 g of hydrobromide (m.p. 247° C.) are dissolved in 10 ml of methanol and treated with 0.8 ml of triethylamine. After 15 min, 150 ml of water are added and the mixture is stirred for 30 min with ice-cooling. The product formed is filtered off with suction and washed with a little cold water. 5-Methanesulfonyl-3-phenyl-2-phenylimino-2,3,8,8a-tetrahydroindeno[1,2-d]thiazol-3a-ol of melting point 172° C. is obtained.

reactant | 2-bromo-6-methanesulfonylindan-1-one | 1.45 g | BrC1C(C2=CC(=CC=C2C1)S(=O)(=O)C)=O | C10H9BrO3S
reactant | N,N'-diphenylthiourea | 1.25 g | C1(=CC=CC=C1)NC(=S)NC1=CC=CC=C1 | C13H12N2S
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 5-Methanesulfonyl-3-phenyl-2-phenylimino-2,3,8,8a-tetrahydroindeno[1,2-d]thiazol-3a-ol | CS(=O)(=O)C=1C=CC=2CC3C(N(C(S3)=NC3=CC=CC=C3)C3=CC=CC=C3)(C2C1)O | C23H20N2O3S2
